US04607006
22-4. Preparation of 3-(4-Methoxyphenyl)-5-[4-(3-phenylthioureido)phenyl]-1-phenyl-2-pyrazoline
3.4 g of 5-(4-aminophenyl)-3-(4-methoxyphenyl)-1-phenyl-2-pyrazoline and 1.5 g of phenyl isothiocyanate were reacted in acetonitrile for 5 hours at room temperature, and the product was reprecipitated from 30 ml of dimethylformamide-methanol to obtain 2.7 g of the desired end compound. m.p. 153°-156° C.

reactant | 5-(4-aminophenyl)-3-(4-methoxyphenyl)-1-phenyl-2-pyrazoline | 3.4 g | NC1=CC=C(C=C1)C1CC(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)OC | C22H21N3O
reactant | phenyl isothiocyanate | 1.5 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(4-Methoxyphenyl)-5-[4-(3-phenylthioureido)phenyl]-1-phenyl-2-pyrazoline | COC1=CC=C(C=C1)C1=NN(C(C1)C1=CC=C(C=C1)NC(=S)NC1=CC=CC=C1)C1=CC=CC=C1 | C29H26N4OS
